US08604034B2
To a solution of methyl 1-[2-oxo-2-(pyridin-4-yl)ethyl]-1H-pyrrole-2-carboxylate (55 mg, 0.23 mmol) in 1,4-dioxane (10 mL) was added ethane-1,2-diamine (0.6 mL, 9.0 mmol). The mixture was heated at reflux for 64 hours and then concentrated in vacuo to give a residue that was purified by flash chromatography (Biotage SP4, gradient CH2Cl2 3 CV, 0 to 10% methanol in CH2Cl2 10 CV, hold 10% MeOH 10 CV) to give 10a-(pyridin-4-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as an off-white solid (35 mg, yield: 60%). 1H-NMR (400 MHz, CDCl3): δ 2.84 (dt, 1H, J 15.2, 4.4 Hz), 3.30-3.37 (m, 1H), 3.49 (ddd, 1H, J 11.3, 7.1, 3.5 Hz), 3.79 (dt, 1H, J 11.2, 8.0 Hz), 4.26 (d, 1H, J 12.2 Hz), 4.39 (d, 1H, J 12.3 Hz), 4.48 (dd, 1H, J 2.5, 1.6 Hz), 6.12 (dd, 1H, J 3.8, 2.6 Hz), 6.92 (dd, 1H, J 3.9, 1.5 Hz), 7.25-7.28 (m, 2H), 8.47-8.50 (m, 2H).

reactant | methyl 1-[2-oxo-2-(pyridin-4-yl)ethyl]-1H-pyrrole-2-carboxylate | 0.23 mmol, 55 mg | O=C(CN1C(=CC=C1)C(=O)OC)C1=CC=NC=C1 | C13H12N2O3
reactant | ethane-1,2-diamine | 9.0 mmol, 0.6 mL | C(CN)N | C2H8N2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 10a-(pyridin-4-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 35 mg, yield: 60% | N1=CC=C(C=C1)C12N(C(C=3N(C1)C=CC3)=O)CCN2 | C14H14N4O
